US04812583
In the manner described in Example 1, (E)-2-[2-(2-bromo-4,6-dimethylphenyl)ethenyl]-5,5-dimethyl-1,3-dioxane was reacted with n-decanal to obtain (E)-2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]3,5-dimethyl-α-nonylbenzenemethanol as a white solid (955.4 mg, 38%): 59°-61° C.; IR (KBr) 3320, 2900, 2820, 1460 and 1375 cm-1 ; NMR (DMSO-d6) δ 0.72 (3H, s), 0.86 (3H, t, J=8 Hz), 1.14 (3H, s), 1.22 (14H, broad singlet), 1.40-1.56 (2H, m), 2.18 (3H, s), 2.26 (3H, s), 3.54 (2H, d, J=12 Hz), 3.64 (2H, d, J=12 Hz), 4.66-4.76 (1H, m), 4.90 (1H, d, J=5 Hz, exchangeable), 5.06 (1H, d, J=6 Hz), 5.58 (1H, dd, J=5, 15 Hz), 6.72 (1H, d, J=15 Hz), 6.92 (1H, s), 7.18 (1H, s).

reactant | (E)-2-[2-(2-bromo-4,6-dimethylphenyl)ethenyl]-5,5-dimethyl-1,3-dioxane | BrC1=C(C(=CC(=C1)C)C)/C=C/C1OCC(CO1)(C)C | C16H21BrO2
reactant | n-decanal | C(CCCCCCCCC)=O | C10H20O
product | (E)-2-[2-(5,5-dimethyl-1,3-dioxan-2-yl)ethenyl]3,5-dimethyl-α-nonylbenzenemethanol | 955.4 mg, 38% | CC1(COC(OC1)/C=C/C1=C(C=C(C=C1C)C)C(O)CCCCCCCCC)C | C26H42O3
